US07507726B2
N-[(2R)-2-({2-[4-(3-Buten-1-yl)-6-(dimethylamino)-1,3,5-triazin-2-yl]hydrazino}carbonyl)-7-octen-1-yl]-N-benzoxyformamide
To a mixture of (2R)-2-({N-formyl-N-benzoxy-amino}methyl)-7-octenoic acid (233 mg, 1.121 mmol), 4-(3-buten-1-yl)-6-(dimethylamino)-2-hydrazino-1,3,5-triazine (342 mg, 1.121 mmol), NMM (0.62 mL, 5.61 mmol) and HOAt (183 mg, 1.345 mmol) in DMF (11 mL) at room temperature was added 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride (258 mg, 1.345 mmol). After stirring at room temperature overnight, the reaction mixture was then purified by HPLC to afford the title compound as a white solid. MH+496.

reactant | (2R)-2-({N-formyl-N-benzoxy-amino}methyl)-7-octenoic acid | 1.121 mmol, 233 mg | C(=O)N(OCC1=CC=CC=C1)C[C@H](C(=O)O)CCCCC=C | C17H23NO4
reactant | 4-(3-buten-1-yl)-6-(dimethylamino)-2-hydrazino-1,3,5-triazine | 1.121 mmol, 342 mg | C(CC=C)C1=NC(=NC(=N1)N(C)C)NN | C9H16N6
reactant | NMM | 5.61 mmol, 0.62 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 1.345 mmol, 183 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride | 1.345 mmol, 258 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | N-[(2R)-2-({2-[4-(3-Buten-1-yl)-6-(dimethylamino)-1,3,5-triazin-2-yl]hydrazino}carbonyl)-7-octen-1-yl]-N-benzoxyformamide | C(CC=C)C1=NC(=NC(=N1)N(C)C)NNC(=O)[C@@H](CN(C=O)OCC1=CC=CC=C1)CCCCC=C | C26H37N7O3
